US07820700B2
Methyl 2-[4(benzyloxy)-3-cyanophenyl]isonicotinate and pentamethylbenzene were stirred at room temperature in trifluoromethanesulfonic acid to obtain methyl 2-(3-cyano-4-hydroxyphenyl)isonicotinate. F: 255.

reactant | Methyl 2-[4(benzyloxy)-3-cyanophenyl]isonicotinate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1C=C(C(=O)OC)C=CN1)C#N | C21H16N2O3
reactant | pentamethylbenzene | CC=1C(=C(C(=C(C1)C)C)C)C | C11H16
solvent | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | methyl 2-(3-cyano-4-hydroxyphenyl)isonicotinate | C(#N)C=1C=C(C=CC1O)C=1C=C(C(=O)OC)C=CN1 | C14H10N2O3
